US04143144
To a solution of 26.54 grams (0.10 mole) of 2,6-dichloro-4-(trichloromethyl)pyridine dissolved in 150 milliliters (ml) of 2-methoxyethanol was added over a 35 minute period, a solution composed of 2.53 grams (0.11 mole) of sodium metal dissolved in 100 ml of 2-methoxyethanol. The mixture was stirred for 5 hours at 65°-75° C. The insoluble by-products were removed by filtration and the 2-methoxyethanol was removed by evaporation under reduced pressure. The resulting oily product was diluted with water and extracted with methylene chloride and dried with sodium sulfate. The methylene chloride was then removed leaving the 2-chloro-6-(2-methoxyethoxy)-4-(trichloromethyl)pyridine as an oil. The product was recovered in a yield of 25.6 grams (84 percent of theoretical) and had a refractive index of n 25/d = 1.5440. Upon analysis, the compound was found to have carbon, hydrogen and nitrogen contents of 35.48, 2.99 and 4.72 percent, respectively, as compared with the theoretical contents of 35.44, 2.97 and 4.59 percent, respectively, as calculated for the above named structure.

reactant | 2,6-dichloro-4-(trichloromethyl)pyridine | 0.10 mole, 26.54 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl | C6H2Cl5N
reactant | sodium | 0.11 mole, 2.53 grams | [Na] | Na
reactant | 2-methoxyethanol | 150 milliliters | COCCO | C3H8O2
reactant | 2-methoxyethanol | 100 ml | COCCO | C3H8O2
product | 2-chloro-6-(2-methoxyethoxy)-4-(trichloromethyl)pyridine | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCCOC | C9H9Cl4NO2
